US04094886
In accordance with the process of Preparation 22, 5-benzyloxy-2-diazo-3-oxo-6-heptenoic acid methyl ester (1.16 g; 4 mmol) and copper acetylacetone complex (100 mg) were dissolved in 30 ml of anhydrous xylene. The reaction product was purified by silica gel column chromatography to obtain two types of isomers of 4-benzyloxy-2-oxo-bicyclo[3.1.0] hexane-1-carboxylic acid methyl ester (248mg) as an oily product.

reactant | 5-benzyloxy-2-diazo-3-oxo-6-heptenoic acid methyl ester | 4 mmol, 1.16 g | COC(C(C(CC(C=C)OCC1=CC=CC=C1)=O)=[N+]=[N-])=O | C15H16N2O4
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-benzyloxy-2-oxo-bicyclo[3.1.0] hexane-1-carboxylic acid methyl ester | 248mg | COC(=O)C12C(CC(C2C1)OCC1=CC=CC=C1)=O | C15H16O4
